US04670465
Pentadeca-2,5,8-triyn-1-ol tetrahydropyranyl ether can be prepared by coupling propargyl alcohol tetrahydropyranyl ether with n-hexyl bromide in the presence of lithium amide, to produce 2-nonyn-1-ol tetrahydropyranyl ether, then hydrolysing of the tetrahydropyranyloxy function with Pyr/PTS in ethanol solution followed by esterification of the hydroxy compound with methanesulfonyl chloride in the presence of triethylamine. The mesylate is then reacted with lithium bromide in acetone solution to produce 1-bromo-2-nonyne. Finally the latter compound is coupled with hexa-2,5-diyn-1-ol-tetrahydropyranyl ether in the presence of ethylmagnesium bromide and cuprous chloride. The sequence of reaction conditions are essentially the same as those described hereinafter in detail.

reactant | Pyr | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | lithium bromide | [Br-].[Li+]
solvent | ethanol | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-bromo-2-nonyne | BrCC#CCCCCCC | C9H15Br
